US07153878B2
3-(2-Methyl-4-nitro-phenyl)-acrylic acid methyl ester
To a solution of 2-bromo-5-nitrotoluene (3.11 g, 14.39 mmol) in propionitrile (105 mL) is added DIPEA (5.1 mL, 29.28 mmol). The mixture is degassed three times. Methyl acrylate (5.2 mL, 57.74 mmol) is added and the mixture is degassed. Tri-o-tolylphosphine (1.77 g, 5.82 mmol) and Pd(OAc)2 (0.64 g, 2.85 mmol) are added and the mixture is degassed a final two times followed by heating at 110° C. for 4 h. Upon cooling, the mixture is passed through Celite and the filtrate is concentrated. The residue is partitioned between Et2O and 1N HCl. The organics are washed with saturated NaHCO3 and brine, and dried with Na2SO4. The crude material is purified by flash chromatography to yield the title compound (2.90 g, 91%).

reactant | 2-bromo-5-nitrotoluene | 14.39 mmol, 3.11 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | DIPEA | 29.28 mmol, 5.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Methyl acrylate | 57.74 mmol, 5.2 mL | C(C=C)(=O)OC | C4H6O2
reactant | Tri-o-tolylphosphine | 5.82 mmol, 1.77 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | propionitrile | 105 mL | C(CC)#N | C3H5N
catalyst | Pd(OAc)2 | 2.85 mmol, 0.64 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(2-Methyl-4-nitro-phenyl)-acrylic acid methyl ester | 2.90 g, 91% | COC(C=CC1=C(C=C(C=C1)[N+](=O)[O-])C)=O | C11H11NO4
